US07977344B2
2-(Butyloxy)-8-(methyloxy)-9-[3-(tetrahydro-2-furanyl)proyl]-9H-Purin-6-amine
Prepared similarly to Intermediate 216 from 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 2-(3-bromopropyl)tetrahydrofuran.

reactant | 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 2-(3-bromopropyl)tetrahydrofuran | BrCCCC1OCCC1 | C7H13BrO
product | 2-(Butyloxy)-8-(methyloxy)-9-[3-(tetrahydro-2-furanyl)proyl]-9H-Purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1OCCC1)OC)N | C17H27N5O3
